US04675186
Methyl 2-Benzyloxy-2-methylpropionate
2-Benzyloxy-2-methylpropionic acid (4.4 g., 0.0023 mol) was dissolved in 50 ml. of methanol treated with acetyl chloride (1.61 ml., 1.78 g., 0.0023 mol), stirred for 16 hours, stripped to an oil, taken up in 75 ml. ethyl acetate, washed 1×50 ml. saturated NaHCO3 and 1×50 ml. brine, dried over MgSO4 and stripped to yield purified title product as a second oil, 4.22 g.; 1H-nmr 1.5 (s, 6H), 3.8 (s, 3H), 4.5 (s, 2H), 7.3-7.5 (m, 5H).

reactant | 2-Benzyloxy-2-methylpropionic acid | 0.0023 mol, 4.4 g | C(C1=CC=CC=C1)OC(C(=O)O)(C)C | C11H14O3
reactant | acetyl chloride | 0.0023 mol, 1.61 ml, 1.78 g | C(C)(=O)Cl | C2H3ClO
solvent | methanol | CO | CH4O
product | Methyl 2-Benzyloxy-2-methylpropionate | C(C1=CC=CC=C1)OC(C(=O)OC)(C)C | C12H16O3
